US05235053
To a solution of 1.0 g of 4-hydroxypyrrolo [2,3-d]pyrimidine in 20 ml of DMF, 3.3 g (2.2 eq) of bis(trimethylsilyl)acetamide was added, and the resulting solution was stirred at 40° C. in an oil bath for about 2 h. Completeness of silylation was indicated by NMR analysis of an aliquot showing disappearance of the N-3 proton signal. The reaction was cooled to ambient temperature and 1.6 g (1.2 eq) of N-iodosuccinimide (NIS), was added in one portion. The reaction mixture was protected from light and stirred at ambient temperature until completion was indicated by NMR analysis (disappearance of pyrrole C-H doublets and emergence of a single, finely split doublet at δ7.17, about 2 h). The mixture was poured into 50 mL of water with stirring. After 1-2 hours, the product was collected by filtration, washed with water, dried, and reslurried in 10 volumes of 10% methanol in chloroform. Filtration and drying gave 1.7 g of 4-hydroxy- 5-iodopyrrolo[2,3-d]pyrimidine (88% yield), mp 248°-253° C. (dec). 1H NMR (300 MHz, DMSO-d6) δ7.17 (d, J=2.4 Hz, 1 H), 7.80 (d, J=2.3 Hz, 1 H), 11.82 (s, 1 H), 12.14 (s, 1 H). 13C NMR (75.5 MHz, DMSO-d6) δ53.8, 107.3, 125.5, 143.6, 147.9, 157.8. Anal. Calcd for C6H4IN3O: C, 27.61; H, 1.54; N, 16.10. Found: C, 27.71; H, 1.48; N, 15.85.

reactant | 4-hydroxypyrrolo [2,3-d]pyrimidine | 1.0 g | OC1=C2C(NC=N1)=NC=C2 | C6H5N3O
reactant | bis(trimethylsilyl)acetamide | 3.3 g, 2.2 eq | C[Si](C)(C)C(C(=O)N)[Si](C)(C)C | C8H21NOSi2
reactant | N-iodosuccinimide | 1.6 g, 1.2 eq | IN1C(CCC1=O)=O | C4H4INO2
reactant | water | 50 mL | O | H2O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 4-hydroxy- 5-iodopyrrolo[2,3-d]pyrimidine | 1.7 g, 88% yield | OC1=C2C(NC=N1)=NC=C2I | C6H4IN3O
